US04707479
(b) 3-Aminocrotonic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide
12.5 g (45.7 mmoles) of acetoacetic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide in 225 ml of aqueous concentrated ammonia are heated under reflux for 2 hours. After cooling, the product if filtered off with suction and washed with water until it is neutral.

reactant | acetoacetic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide | 45.7 mmoles, 12.5 g | O=C1CCC(=NN1)C1=CC=C(C=C1)NC(CC(=O)C)=O | C14H15N3O3
reactant | ammonia | 225 ml | N | H3N
product | 3-Aminocrotonic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)-phenyl]-amide | O=C1CCC(=NN1)C1=CC=C(C=C1)NC(\C=C(\C)/N)=O | C14H16N4O2
